US08871766B2
C) (4-benzyl-4-hydroxypiperidin-1-yl) (2-(1,3-oxazol-5-yl) phenyl) methanone
A suspension of 2-(1,3-oxazol-5-yl)benzoic acid (0.30 g), 4-benzyl-4-hydroxypiperidine (0.36 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.46 g), 1-hydroxybenzotriazole (0.40 g) and triethylamine (0.40 g) in DMF (3 mL) was stirred at room temperature for 16 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (0.28 g).

reactant | 2-(1,3-oxazol-5-yl)benzoic acid | 0.30 g | O1C=NC=C1C1=C(C(=O)O)C=CC=C1 | C10H7NO3
reactant | 4-benzyl-4-hydroxypiperidine | 0.36 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.46 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.40 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
product | (4-benzyl-4-hydroxypiperidin-1-yl) (2-(1,3-oxazol-5-yl) phenyl) methanone | 0.28 g | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C1=C(C=CC=C1)C1=CN=CO1)O | C22H22N2O3
